US07456282B2
23.73 g (0.1 mole) of 2-amino-9-(4-hydroxy-3-(hydroxymethyl)but-1-yl)purine was suspended in 300 ml of tetrahydrofuran. To the suspension, 24.52 g (0.31 mole) of pyridine, 1.22 g (0.01 mole) of 4-dimethylaminopyridine and 21.44 g (0.21 mole) of acetic acid anhydride were added, and the mixture was stirred for five hours at room temperature. After completion of the reaction, the reaction product was concentrated under reduced pressure. The remaining concentrate was added to 300 ml of purified water and then extracted four times with 400 ml portions of chloroform. The organic layer was collected, and dried with anhydrous magnesium sulfate, followed by filtration and washing. The resulting filtrate was concentrated under reduced pressure and crystallized from butanol, thereby giving 24.10 g (75% yield) of white 9-[4-acetoxy-3-(acetoxymethyl)but-1-yl-2-aminopurine (famciclovir).

reactant | 2-amino-9-(4-hydroxy-3-(hydroxymethyl)but-1-yl)purine | 0.1 mole, 23.73 g | NC1=NC=C2N=CN(C2=N1)CCC(CO)CO | C10H15N5O2
reactant | pyridine | 0.31 mole, 24.52 g | N1=CC=CC=C1 | C5H5N
reactant | acetic acid anhydride | 0.21 mole, 21.44 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.01 mole, 1.22 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-acetoxy-3-(acetoxymethyl)but-1-yl-2-aminopurine | 75% yield | C(C)(=O)OC12N=C(N=CC2=NC(=N1)CCC(C)COC(C)=O)N | C14H19N5O4
